US06939883B2
Step 1B 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-ethoxycarbonyl-4-pyridone:
A mixture of ethyl-3-(2,6-difluorobenzylamino)crotonate (2.55 g, 10.0 mmol) and 2,2,6-trimethyl-1,3-dioxin-4-one (1.85 g, 13.0 mmol) in toluene (100 mL) was heated at reflux for 3 hours. The reaction progress was monitored by LC/MS. An additional aliquot of 2,2,6-trimethyl-1,3-dioxin-4-one (2.0 mL) was added and the reaction mixture was refluxed for another 2 hours. LC/MS indicated complete conversion to product. The mixture was cooled down and the solvent was removed in vacuo. The solid residue was triturated with diethyl ether to yield the product as a tan solid (1.37 g, 4.3 mmol, 43%). 1H NMR (CDCl3, 300 MHz): 7.40-7.30 (m, 1H), 7.00-6.91 (m, 2H), 6.30 (s, 1H), 5.20 (s, 2H), 4.37 (q, J=6.9 Hz, 2H), 2.37 (s, 3H), 2.31 (s, 3H), 1.35 (t, J=6.9 Hz, 3H); LRMS m/z 322.1 (M++1).

reactant | ethyl-3-(2,6-difluorobenzylamino)crotonate | 10.0 mmol, 2.55 g | C(C)OC(\C=C(\C)/NCC1=C(C=CC=C1F)F)=O | C13H15F2NO2
reactant | 2,2,6-trimethyl-1,3-dioxin-4-one | 13.0 mmol, 1.85 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | 2,2,6-trimethyl-1,3-dioxin-4-one | 2.0 mL | CC1(OC(=CC(O1)=O)C)C | C7H10O3
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-ethoxycarbonyl-4-pyridone | 4.3 mmol, 1.37 g, 43% | FC1=C(CN2C(=C(C(C=C2C)=O)C(=O)OCC)C)C(=CC=C1)F | C17H17F2NO3
